US09328138B2
Step 1: 3-bromo-4-hydroxyquinolin-2(1H)-one
N-bromosuccinimide (2.21 g) was added to the solution of 2,4-dihydroxyquinoline (2 g) in DCM (50 ml). The mixture was stirred at room temperature for 3 days. The mixture was filtrated and the solid was triturated with isopropanol. After filtration, toluene was added to the solid and the solvent was evaporated under reduced pressure to give the desired product (1.92 g) as a beige solid. LRMS (ES+) m/z 240.1 (M+H)+.

reactant | N-bromosuccinimide | 2.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,4-dihydroxyquinoline | 2 g | OC1=NC2=CC=CC=C2C(=C1)O | C9H7NO2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-hydroxyquinolin-2(1H)-one | 1.92 g | BrC=1C(NC2=CC=CC=C2C1O)=O | C9H6BrNO2
